US05324747
3-(Methylthio)-5-(octadecyloxy)benzoic acid
A mixture of 2.54 g (12.8 mmol) of 3-hydroxy-5-methylthiobenzoic acid methyl ester, 4.7 g (14.1 mmol) of 1-bromooctadecane and 2.7 g (19.2 mmol) of potassium carbonate in 60 ml of anhydrous DMP was stirred and heated at 80° under an argon atmosphere for 21 hours. The reaction mixture was filtered through a Celite pad and the filtrate was concentrated at reduced pressure. Water was added to the residue and the product was filtered and recrystallized from methylene chloride-methanol to give 5.5 g (95% yield), mp 64°-66°, of 3-(methylthio)-5-(octadecyloxy)benzoic acid methyl ester. The nmr and mass spectra were consistent with the structure. A solution of 2.7 g (6 mmol) of 3-(methylthio)-5-(octadecyloxy)benzoic acid methyl ester and 5.0 ml (30 mmol) of 6 N NaOH in 125 ml of methanol was stirred at reflux under argon for 5 hours. The solvent was removed at reduced pressure, the residue was acidified with 6 N HCl and the product was extracted with chloroform. The dried extract was concentrated to a solid which was triturated with hexane and filtered to give 2.6 g, mp 90°-92°, of 3-(methylthio)-5-(oxtadecyloxy)benzoic acid. The nmr and mass spectra were consistent with the structure.

reactant | 3-hydroxy-5-methylthiobenzoic acid methyl ester | 12.8 mmol, 2.54 g | COC(C1=CC(=CC(=C1)C)O)=S | C9H10O2S
reactant | 1-bromooctadecane | 14.1 mmol, 4.7 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | 19.2 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(methylthio)-5-(octadecyloxy)benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)SC)=O | C27H46O3S
reactant | 3-(methylthio)-5-(octadecyloxy)benzoic acid methyl ester | 6 mmol, 2.7 g | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)SC)=O | C27H46O3S
reactant | NaOH | 30 mmol, 6 N, 5.0 ml | [OH-].[Na+]
solvent | methanol | 125 ml | CO | CH4O
product | 3-(Methylthio)-5-(octadecyloxy)benzoic acid | 95% yield | CSC=1C=C(C(=O)O)C=C(C1)OCCCCCCCCCCCCCCCCCC | C26H44O3S
